US08293768B2
Synthesis of N-(benzo[b]thiophen-2-ylmethyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with benzo[b]thiophen-2-ylmethanamine, the title compound was obtained as a colorless solid in 78% yield: 1H NMR (300 MHz, CDCl3) δ 7.78 (d, J=7.6 Hz, 1H), 7.70 (d, J=7.6 Hz, 1H), 7.36-7.22 (m, 5H), 7.08-6.99 (m, 2H), 6.14 (t, J=5.4 Hz, 1H), 6.10 (s, 1H), 4.82 (d, J=5.4 Hz, 2H), 4.42 (s, 2H), 3.83-3.74 (m, 2H), 3.47-3.38 (m, 2H), 2.51 (s, 3H); MS (ES+) m/z 480.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | benzo[b]thiophen-2-ylmethanamine | S1C2=C(C=C1CN)C=CC=C2 | C9H9NS
product | N-(benzo[b]thiophen-2-ylmethyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide | 78% yield | S1C2=C(C=C1CNC(=O)C=1SC(=CC1C)N1C(N(CC1)CC1=CC=C(C=C1)F)=O)C=CC=C2 | C25H22FN3O2S2
